US08492414B2
5-(4-Chlorophenyl)-[1,3,4]oxathiazol-2-one: (II-a)
To a solution of 4-chlorobenzamide (0.25 g, 1.60 mmol) in toluene (10 ml) was added chlorocarbonylsulfenyl chloride (0.70 ml, 8.03 mmol). The resulting reaction mixture was refluxed at 80° C. for 3 h. After the completion of the reaction (TLC monitoring), the mixture was concentrated, added diethyl ether and washed twice with water, twice with 5% NaHCO3, again with water, and was dried (Na2SO4), concentrated under vacuum to give the product (crude yield 0.520 g) that was carried forward to the next step without further purification.

reactant | 4-chlorobenzamide | 1.60 mmol, 0.25 g | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | chlorocarbonylsulfenyl chloride | 8.03 mmol, 0.70 ml | ClC(=O)SCl | CCl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Chlorophenyl)-[1,3,4]oxathiazol-2-one | ClC1=CC=C(C=C1)C1=NSC(O1)=O | C8H4ClNO2S
